US08193178B2
Step E: 2-Chloro-4-(4-methyl-piperazin-1-yl)-thieno[3,2-d]pyrimidine
To a solution of 2,4-dichloro-thieno[3,2-d]pyrimidine (0.20 g, 1.0 mmol) in EtOH (3.2 mL) was added K2CO3 (0.31 g, 2.2 mmol) followed by N-methylpiperazine (0.13 mL, 1.2 mmol). After stirring at rt for 12 h, the mixture was filtered to afford 0.23 g of the desired product. MS: 269.0. 1H NMR (400 MHz, CD3OD) δ ppm 8.06 (d, J=5.6 Hz, 1H), 7.27 (d, J=5.6 Hz, 1H), 4.05-4.00 (m, 4H), 2.62-2.56 (m, 4H), 2.36 (s, 3H).

reactant | 2,4-dichloro-thieno[3,2-d]pyrimidine | 1.0 mmol, 0.20 g | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | K2CO3 | 2.2 mmol, 0.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methylpiperazine | 1.2 mmol, 0.13 mL | CN1CCNCC1 | C5H12N2
solvent | EtOH | 3.2 mL | CCO | C2H6O
product | 2-Chloro-4-(4-methyl-piperazin-1-yl)-thieno[3,2-d]pyrimidine | 0.23 g | ClC=1N=C(C2=C(N1)C=CS2)N2CCN(CC2)C | C11H13ClN4S
